US08895547B2
N-(2,4-Dimethoxybenzyl)-C-[4-(2-morpholin-4-yl-2-oxoethyl)phenyl]methanesulfonamide
To a solution of {4-[(2,4-dimethoxybenzylsulfamoyl)methyl]phenyl}acetic acid (356 mg) in DMF (15 ml) were added triethylamine (237 mg), morpholine (97 mg) and HATU (392 mg). The mixture was stirred at room temperature for 17 h, then added to water (200 ml) and extracted with ethyl acetate. After washing with water, 1 M hydrochloric acid, sodium hydrogencarbonate solution and sodium chloride solution, the organic phase was dried over magnesium sulfate and concentrated. This gave the product (313 mg) with a molecular weight of 448.5 g/mol (C22H28N2O6S).

reactant | {4-[(2,4-dimethoxybenzylsulfamoyl)methyl]phenyl}acetic acid | 356 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)CC(=O)O)C=CC(=C1)OC | C18H21NO6S
reactant | triethylamine | 237 mg | C(C)N(CC)CC | C6H15N
reactant | morpholine | 97 mg | N1CCOCC1 | C4H9NO
reactant | HATU | 392 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | N-(2,4-Dimethoxybenzyl)-C-[4-(2-morpholin-4-yl-2-oxoethyl)phenyl]methanesulfonamide | 313 mg | COC1=C(CNS(=O)(=O)CC2=CC=C(C=C2)CC(=O)N2CCOCC2)C=CC(=C1)OC | C22H28N2O6S
